US04420479
1-(Thiazin-2-yl)-2-amino-6-(α-chloromethylenebenzyl)benzimidazole.
A solution of 500 mg. of 1-(thiazin-2-yl)-2-amino-6-(α-methylenebenzyl)benzimidazole in 50 ml. of tetrahydrofuran containing 250 mg. of N-chlorosuccinimide was stirred at room temperature for sixteen hours. The reaction mixture was filtered, and the filtrate was diluted with water and then concentrated to a volume of about 25 ml. The precipitate which formed was collected by filtration, dried, and identified as 140 mg. of 1-(thiazin-2-yl)-2-amino-6-(α-chloromethylenebenzyl)benzimidazole.

reactant | 1-(thiazin-2-yl)-2-amino-6-(α-methylenebenzyl)benzimidazole | S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=C)N | C19H16N4S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 250 mg | O1CCCC1 | C4H8O
product | 1-(Thiazin-2-yl)-2-amino-6-(α-chloromethylenebenzyl)benzimidazole | S1N(C=CC=C1)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=CCl)N | C19H15ClN4S
